US05371064
A mixture of 2-methylsulphonyl-3-phenylsulphenylbenzoic acid and N,N-dimethylformamide (0.25 ml) in thionyl chloride was heated at reflux for 1.25 hours. The solution was evaporated to give 9.9 g of 2-methylsulphonyl-3-phenylsulphenylbenzoyl chloride as a pale yellow oil which was used directly in the next step without further purification.

reactant | 2-methylsulphonyl-3-phenylsulphenylbenzoic acid | CS(=O)(=O)C1=C(C(=O)O)C=CC=C1SC1=CC=CC=C1 | C14H12O4S2
reactant | N,N-dimethylformamide | 0.25 ml | CN(C=O)C | C3H7NO
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 2-methylsulphonyl-3-phenylsulphenylbenzoyl chloride | 9.9 g | CS(=O)(=O)C1=C(C(=O)Cl)C=CC=C1SC1=CC=CC=C1 | C14H11ClO3S2
